US07173031B2
C) tert-Butyl 3-(3-(dimethylamino)prop-1-ynyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
A stream of Ar was bubbled through a mixture of tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (200 mg, 0.4 mmol), N,N-dimethylprop-2-yn-1-amine (66 mg, 0.8 mmol), Pd(dppf)2Cl2:CH2Cl2 (33 mg, 0.04 mmol), and CuI (20 mg) in triethylamine (0.4 mL) and THF (3 mL) for 5 min. The reaction mixture was heated in a sealed tube at 70° C. for 2 h and the solvent was removed in vacuo. The crude compound was purified by flash column chromatography (silica gel, 5% MeOH/EtOAc) to afford the desired product (170 mg, 95%) as a yellow oil. LC/MS(ESI+) m/z 455 (M+H)+.

reactant | tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.4 mmol, 200 mg | FC1=C(OC2=C3C(=NC=C2)N(C=C3I)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C18H15FIN3O5
reactant | N,N-dimethylprop-2-yn-1-amine | 0.8 mmol, 66 mg | CN(CC#C)C | C5H9N
reactant | CH2Cl2 | 0.04 mmol, 33 mg | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 20 mg | [Cu]I
product | tert-Butyl 3-(3-(dimethylamino)prop-1-ynyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 170 mg, 95% | CN(CC#CC1=CN(C2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C(=O)OC(C)(C)C)C | C23H23FN4O5
